US08071592B2
(c) 7-Fluoro-2(1H)-quinoxalinone
A solution of 7-fluoro-3,4-dihydro-2(1H)-quinoxalinone (15.65 g, 92.88 mmol) in dichloromethane/methanol (1:1, 600 mL) was stirred with manganese dioxide (78.25 g) at room temperature for 1.5 h. The mixture was filtered through kieselguhr, washing through several times with 10% methanol/dichloromethane (˜1 L), and the filtrate was evaporated to give the product (7.27 g). Extraction of the residual filtration solids several times with dimethylformamide at 60-70° C., followed by filtration and evaporation of the extracts, gave more product (6.66 g), the total yield being 13.93 g (91.5%).

reactant | 7-fluoro-3,4-dihydro-2(1H)-quinoxalinone | 92.88 mmol, 15.65 g | FC1=CC=C2NCC(NC2=C1)=O | C8H7FN2O
solvent | dichloromethane methanol | 600 mL | ClCCl.CO
catalyst | manganese dioxide | 78.25 g | [O-2].[O-2].[Mn+4]
product | 7-Fluoro-2(1H)-quinoxalinone | 7.27 g | FC1=CC=C2N=CC(NC2=C1)=O | C8H5FN2O
